US04474754
1.35 Grams of Z-Arg(Tos)-Ser-Ser-OH was dissolved in 50 ml of methanol and 10 ml of 10%-acetic acid, and the solution was subjected to catalytical reduction in the presence of 500 mg of palladium at 20° C. under an atmospheric pressure to obtain H-Arg(Tos)-Ser-Ser-OH.

reactant | Z-Arg(Tos)-Ser-Ser-OH | N([C@@H](CCCNC(NS(=O)(=O)C1=CC=C(C)C=C1)=N)C(=O)N[C@@H](CO)C(=O)N[C@@H](CO)C(=O)O)C(=O)OCC1=CC=CC=C1 | C27H36N6O10S
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | methanol | 50 ml | CO | CH4O
catalyst | palladium | 500 mg | [Pd] | Pd
product | H-Arg(Tos)-Ser-Ser-OH | N[C@@H](CCCNC(NS(=O)(=O)C1=CC=C(C)C=C1)=N)C(=O)N[C@@H](CO)C(=O)N[C@@H](CO)C(=O)O | C19H30N6O8S
